US03998821
t-Butyl 3-(2-Ethoxycarbonyl-2-triphenylphosphoranylideneethyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate
A solution of t-butyl 3-bromomethyl-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate (5.0 g., ca. 10.56 mmole.) in ethyl acetate (90 ml.) was treated with a solution of ethoxycarbonylmethylenetriphenylphosphorane (9.18 g, 26.4 mmole) in ehtyl acetate (110 ml.) and the mixture stirred at 27° for 22 hours, in the dark. The mixture was cooled to ca 3° and stirred for 2 hours after which time precipitated material was collected by filtration and treated as described in Example 1c to give the ylid (3.85 g, 49%) as photosensitive white prisms (from ethyl acetate), m.p. (darkening at ca 155°) ca 178° (decomp.), [α]D27 + 61.5° (C 1.6, CHCl3), λmax. (EtOH) 266 nm. (ε 10,360) and 272 nm. (ε 10,000); the infrared and p.m.r. spectra resembled those of material described above in Example 1c.

reactant | t-butyl 3-bromomethyl-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate | ca. 10.56 mmole, 5.0 g | BrCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(CC=2SC=CC2)=O)=O | C18H21BrN2O4S2
reactant | ethoxycarbonylmethylenetriphenylphosphorane | 26.4 mmole, 9.18 g | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | EtOH | CCO | C2H6O
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
solvent | ehtyl acetate | 110 ml | C(C)(=O)OCC | C4H8O2
product | t-Butyl 3-(2-Ethoxycarbonyl-2-triphenylphosphoranylideneethyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate | C(C)OC(=O)C(CC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(CC=2SC=CC2)=O)=O)=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C40H41N2O6PS2
